US08003749B2
Under nitrogen atmosphere, a 500 mL glass flask was charged with 30.0 g (95.0 mmol) of 1,3,5-tribromobenzene and 400 mL of diethyl ether, followed by cooling to −78° C. At −78° C., 60 mL of a 1.6M solution containing 96.0 mmol of n-butyllithium in hexane was added dropwise by spending 1 hr, followed by aging at −78° C. for 1 hr. After confirming lithiation by gas chromatography, 16.6 g (100.0 mmol) of hexafluoroacetone was bubbled at −78° C., followed by stirring for 1 hr. After stirring, the reaction liquid was added to 400 mL of 2N hydrochloric acid to separate it into an organic layer and an aqueous layer. The aqueous layer was extracted with 100 mL of isopropyl ether. The combined organic layer was dried with anhydrous magnesium sulfate, followed by concentration with an evaporator and then solid distillation, thereby obtaining 23.0 g of 1-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-3,5-dibromobenzene (yield: 60%) represented by the following formula.

reactant | 1,3,5-tribromobenzene | 95.0 mmol, 30.0 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | n-butyllithium | 96.0 mmol | C(CCC)[Li]
reactant | hexafluoroacetone | 100.0 mmol, 16.6 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | hydrochloric acid | 2N, 400 mL | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 1-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-3,5-dibromobenzene | 23.0 g, yield: 60% | FC(C(C(F)(F)F)(O)C1=CC(=CC(=C1)Br)Br)(F)F | C9H4Br2F6O
